US07541466B2
Step 1) Preparation of 4-Cyclohexyloxypyridine-2-carbonitrile
To a stirred solution of cyclohexanol (2.84 g, 3.00 mL, 2.84 mmol) in 1-methyl-2-pyrrolidinone (20 mL) was added sodium hydride (1.19 g of 60% dispersion, 29.8 mmol) in small portions over 5 minutes. After stirring for an additional 5 minutes, 2-chloro-4-cyanopyridine (3.75 g, 27.0 mmol) was added and the resulting red-brown solution was heated at 100° C. for 10 minutes. The reaction mixture then was poured onto ice. The mixture was diluted with water and extracted with ether. The combined organic phases were washed with water and brine, dried (magnesium sulfate) and concentrated to provide a yellow oil. Flash chromatography over silica (hexanes/ethyl acetate) afforded 4.17 g (76%) of the desired product as a cloudy oil which solidified on standing: 1H NMR (CDCl3) δ 8.44 (d, J=5.8 Hz, 1H), 7.17 (d, J=2.4 Hz, 1H), 6.95 (dd, J=2.4, 5.8 Hz, 1H), 4.40-4.33 (m, 1H), 1.98-1.95 (m, 2H), 1.82-1.79 (m, 2H), 1.60-1.52 (m, 3H), 1.45-1.32 (m, 3H) ppm. 13C NMR (CDCl3) δ 164.3, 152.2, 135.0, 117.3, 116.4, 113.9, 76.4, 31.1, 25.2, 23.4 ppm.

reactant | cyclohexanol | 2.84 mmol, 3.00 mL, 2.84 g | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 29.8 mmol, 1.19 g | [H-].[Na+]
reactant | 2-chloro-4-cyanopyridine | 27.0 mmol, 3.75 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-Cyclohexyloxypyridine-2-carbonitrile | 4.17 g, 76% | C1(CCCCC1)OC1=CC(=NC=C1)C#N | C12H14N2O
